US07384963B2
2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-[4-(4-sulphamoylphenoxy)phenyl-]1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-(4-aminophenoxy)phenylsulphonamide using method I. LCMS; retention time 3.38 min, MH+ 541.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-(4-aminophenoxy)phenylsulphonamide | NC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N)C=C1 | C12H12N2O3S
product | 2′-Methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-[4-(4-sulphamoylphenoxy)phenyl-]1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)S(N)(=O)=O | C29H24N4O5S
